US05817851
The procedure was analogous to Example 6. 22.4 g (0.08 mol) of tin(II) bromide and 8.0 g (0.08 mol) of acetylacetone were reacted with 9.8 g (0.08 mol) of acetyl bromide in 200 ml of diethyl ether and the reaction solution was concentrated to give 34.0 g (96% of theory) of 1-methylbut-1-en-3-onyltin tribromide (Br3 Sn--C(CH3)=CH--CO--CH3) melting at 110°-112° C.

reactant | tin(II) bromide | 0.08 mol, 22.4 g | [Sn](Br)Br
reactant | acetylacetone | 0.08 mol, 8.0 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | acetyl bromide | 0.08 mol, 9.8 g | C(C)(=O)Br | C2H3BrO
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 1-methylbut-1-en-3-onyltin tribromide | 34.0 g, 96% | CC(=CC(C)=O)[Sn](Br)(Br)Br | InChI=1S/C5H7O.3BrH.Sn/c1-3-4-5(2)6;;;;/h4H,1-2H3;3*1H;/q;;;;+3/p-3
